US07696365B2
Preparation of 4,6-dibromo-2-carboxy-5-hydroxybenzofuran
Preparation of 2-carboxy-5-hydroxybenzofuran 2-Carboxy-5-methoxybenzofuran (1.0 g, 5.2 mmol) was dissolved in anhydrous dichloromethane (25 ml) and cooled to −78° C. A 1 M solution of borontribromide (15.6 ml) in dichloromethane was added slowly. The reaction mixture was allowed to warm to ambient temperature under an atmosphere of nitrogen, and stirred 4 hours. The solution was quenched with aqueous ammonium chloride (20 ml) and extracted with ethyl acetate. The aqueous layer was washed with water and dried over sodium sulfate. 0.9 g (100%) of crude product was obtained. 1H NMR(CD3OD) δ=6.84 (dd, 1H), 6.95 (d, 1H), 7.17 (s, 1H), 7.32 (d, 1H). Step 2: Preparation of 4,6-dibromo-2-carboxy-5-hydroxybenzofuran 2-carboxy-5-hydroxybenzofuran (980 mg, 5.50 mmol) and potassium acetate (1.10 g, 11.21 mmol) were dissolved in acetic acid (30 ml) and cooled to 0° C. Bromine (845 μl, 16.50 mmol) was dissolved in acetic acid (2 ml) and added slowly to the above solution. The reaction mixture was allowed to warm to ambient temperature under an atmosphere of nitrogen, and stirred 2.5 hours. Water (20 ml) was then added to the solution and the reaction quenched upon the addition of Na2S2O3-5H2O (260 mg). The aqueous solution was extracted with diethyl ether, and the organic layer washed with aqueous sodium thiosulfate and dried over sodium sulfate. Concentration in vacuo yielded a tan solid which was washed with hexanes to yield 1.04 g (56%). 1H NMR (CD3OD) δ=7.39 (s, 1H), 7.82 (s, 1H).

reactant | 4,6-dibromo-2-carboxy-5-hydroxybenzofuran 2-carboxy-5-hydroxybenzofuran | 5.50 mmol, 980 mg | C(=O)(O)C=1OC2=C(C1)C=C(C=C2)O.BrC2=C(C(=CC1=C2C=C(O1)C(=O)O)Br)O
reactant | potassium acetate | 11.21 mmol, 1.10 g | C(C)(=O)[O-].[K+]
reactant | Bromine | 16.50 mmol, 845 μl | BrBr | Br2
reactant | Water | 20 ml | O | H2O
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 4,6-dibromo-2-carboxy-5-hydroxybenzofuran | BrC1=C(C(=CC2=C1C=C(O2)C(=O)O)Br)O | C9H4Br2O4
